US05646173
An ozone stream (3 g ozone/hour) was conducted for 90 minutes while stirring through a solution, cooled to -70°, of 15.1 g of (RS)-2-(2-buten-1-yl)-4-chloro-1-indanone in 200 ml of anhydrous dichloromethane and 40 ml of anhydrous methanol. Subsequently, the solution was flushed with oxygen for 5 minutes and with argon for 10 minutes. After the addition of 7.55 ml of dimethyl sulfide the mixture was stirred at room temperature for 20 hours. The reaction mixture was evaporated in a vacuum. The residue was treated with 200 ml of dichoromethane and, after the addition of 25 ml of water and 25 ml of trifluoroacetic acid, stirred at room temperature for 2 hours. The mixture was subsequently poured into 200 ml of water and neutralized by the spatula-wise addition of sodium hydrogen carbonate while stirring. An additional 100 ml of water were added. The phases were separated and the aqueous phase was extracted twice with 120 ml of dichloromethane each time. The combined organic phases were dried over magnesium sulfate and concentrated in a vacuum. 13.9 g (97%) of (RS)-2-(2-oxoethyl)-4-chloro-1-indanone were obtained as a light yellow oil.

reactant | ozone | O=[O+][O-] | O3
reactant | ozone | 3 g | O=[O+][O-] | O3
reactant | (RS)-2-(2-buten-1-yl)-4-chloro-1-indanone | 15.1 g | C(C=CC)C1C(C2=CC=CC(=C2C1)Cl)=O | C13H13ClO
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | methanol | 40 ml | CO | CH4O
product | (RS)-2-(2-oxoethyl)-4-chloro-1-indanone | 13.9 g, 97% | O=CCC1C(C2=CC=CC(=C2C1)Cl)=O | C11H9ClO2
